US07304081B2
(1R)-1′-({1-[4-(5-Methylpyridin-2-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
To a solution of (1R)-1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (20 mg, 0.00005 mol, prepared as example 238) in 1,4-dioxane (0.2 mL, 0.002 mol) were added tris(dibenzylideneacetone)dipalladium(0) (0.2 mg, 0.0000002 mol), tri-tert-butylphosphine (0.12 mg, 5.8×10−7 mol), potassium fluoride (9.3 mg, 0.00016 mol) and 2-bromo-5-methylpyridine (0.012 g, 0.000073 mol), and the mixture was heated at 110° C. for 30 minutes. The reaction mixture was filtered and the filtrate was diluted with methanol. The product was isolated and purified with prep-HPLC. LC-MS: 425.2 (M+H+).

reactant | (1R)-1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.00005 mol, 20 mg | BrC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C21H18BrNO3
reactant | 1,4-dioxane | 0.002 mol, 0.2 mL | O1CCOCC1 | C4H8O2
reactant | tri-tert-butylphosphine | 5.8×10−7 mol, 0.12 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | potassium fluoride | 0.00016 mol, 9.3 mg | [F-].[K+]
reactant | 2-bromo-5-methylpyridine | 0.000073 mol, 0.012 g | BrC1=NC=C(C=C1)C | C6H6BrN
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0000002 mol, 0.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1R)-1′-({1-[4-(5-Methylpyridin-2-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | CC=1C=CC(=NC1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C27H24N2O3
